US06933387B2
b) 5-Fluoro-6-methyl-1H-indole-2-carboxylic acid ethyl ester
(Z)-2-Azido-3-(3-fluoro-4-methyl-phenyl)-acrylic acid ethyl ester (9.7 g, 0.039 mol) was dissolved in 80 ml p-xylene and divided into four portions which were refluxed for 1 h. The oil bath was removed and the yellow solutions were cooled to 15° C. The resulting suspensions were filtered, washed with n-hexane and the solid material collected. The combined mother liquors were evaporated and the resulting oil was purified on silical gel (0.030-0.063 mm) with n-hexane/tert-butyl methyl ether (50/1) as eluent. The purified fractions together with the first precipitates were combined and chromatographed again to yield the desired product as a colorless solid (3.2 g, 37.2%). EI-MS: m/e=249.1 (M).

reactant | (Z)-2-Azido-3-(3-fluoro-4-methyl-phenyl)-acrylic acid ethyl ester | 0.039 mol, 9.7 g | C(C)OC(/C(=C/C1=CC(=C(C=C1)C)F)/N=[N+]=[N-])=O | C12H12FN3O2
solvent | p-xylene | 80 ml | CC=1C=CC(=CC1)C | C8H10
product | 5-Fluoro-6-methyl-1H-indole-2-carboxylic acid ethyl ester | 3.2 g, 37.2% | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1)F)C | C12H12FNO2
